US04808589
2-[[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone (0.49 g) was dissolved in ethanolic hydrogen chloride (5 ml) and ethanol (25 ml) and the solution refluxed for 45 hours. Solvent was evaporated off under reduced pressure and the residue dissolved in water (25 ml). The solution was adjusted to pH 11 with potassium carbonate solution, whereupon an oily solid precipitated This was extracted with chloroform (3×20 ml) and the combined extracts dried (MgSO4) and chloroform evaporated in vacuo. The residue was recrystallised from isopropanol-ether to give 2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone as a white solid (0.39 g), m.p. 167°-9° C.

reactant | 2-[[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | 0.49 g | N1(CCCCC1)CC=1C=C(OCCCC2=NC=C(C(N2)=O)CC2=CC(=NC=C2)OC)C=CC1 | C26H32N4O3
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | hydrogen chloride | 5 ml | Cl | ClH
product | 2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone | 0.39 g | N1(CCCCC1)CC=1C=C(OCCCC2=NC=C(C(N2)=O)CC2=CC(=NC=C2)O)C=CC1 | C25H30N4O3
